### PR TITLE
Statements of chapter 3

### PR DESCRIPTION
**Pull request by fpvandoorn**

### CODE REVIEW

File: Carleson/MetricCarleson/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,73 @@
...
+noncomputable section
+
+variable {X : Type*} {a : ℕ} [MetricSpace X]
+variable {C : ℝ}
+variable {F G : Set X}
+variable {K : X → X → ℂ}
+variable {f : X → ℂ}
+
+variable [CompatibleFunctions ℝ X (defaultA a)]
+    (ha : 4 ≤ a)
```
Comment (grunweg) [inline Carleson/MetricCarleson/Basic.lean:16]: From mathlib, I'm used to two-space indents. (Also below.)

File: Carleson/MetricCarleson/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,73 @@
...
+  sorry
+
+lemma measurable_carlesonOperatorIntegrand (hf : ∀ x, ‖f x‖ ≤ 1) :
+    Measurable (carlesonOperatorIntegrand K θ R₁ R₂ f) := by
+  sorry
+
+/-- The constant used in the proof of `int-continuous`. -/
+irreducible_def C3_0_1 (a : ℕ) (R₁ R₂ : ℝ≥0) : ℝ≥0 := 2 ^ ((a : ℝ) ^ 3) * (2 * R₂ / R₁) ^ a
+
+-- not sure if this is the best phrasing
```
Comment (grunweg) [inline Carleson/MetricCarleson/Basic.lean:69]: I also wonder if an enorm would be better. Perhaps that's my *deformacion profesionelle*

File: Carleson/MetricCarleson/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,73 @@
...
+
+open MetricΘ
+
+variable
+    [DoublingMeasure X (defaultA a : ℕ)]
+    [IsCancellative X (defaultτ a)]
+    [IsOneSidedKernel a K]
+
+
+lemma continuous_carlesonOperatorIntegrand (hf : ∀ x, ‖f x‖ ≤ 1) :
```
Comment (grunweg) [inline Carleson/MetricCarleson/Basic.lean:50]: So, you're using the norm (not enorm) here because f x is complex-valued, i.e. we want to work in a Banach space (and not so much an enormed space) --- right?

File: Carleson/MetricCarleson/Truncation.lean [hunk 4]
```diff
@@ -0,0 +1,87 @@
...
+def T_S (Q : SimpleFunc X (Θ X)) (s₁ s₂ : ℤ) (f : X → ℂ) (x : X) : ℂ :=
+  ∫ y, ∑ s ∈ Finset.Icc s₁ s₂, Ks s x y * f y * exp (I * Q x y)
+
+/-- The operator T_{2, σ₁, σ₂} introduced in Lemma 3.0.4. -/
+def T_lin (Q : SimpleFunc X (Θ X)) (σ₁ σ₂ : X → ℤ) (f : X → ℂ) (x : X) : ℂ :=
+  ∑ s ∈ Finset.Icc (σ₁ x) (σ₂ x), ∫ y, Ks s x y * f y * exp (I * (Q x y - Q x x))
+
+/-- The constant used in `S_truncation`.
+Has value `2 ^ (445 * a ^ 3) / (q - 1) ^ 6` in the blueprint. -/
+def C3_0_4 (a : ℕ) (q : ℝ≥0) : ℝ≥0 := 2 ^ (450 * a ^ 3) / (q - 1) ^ 6
```
Comment (grunweg) [inline Carleson/MetricCarleson/Truncation.lean:39]: Is this a copy-paste error? And it seems to me that this is used in `linearized_truncation`, not S-truncation.

Comment (grunweg) [reply Carleson/MetricCarleson/Truncation.lean:39]: Ah, the blueprint reduces 3.0.3 to 3.0.4. Fair enough. Do you think putting C3_0_3 := C3_0_4 is useful?

File: Carleson/MetricCarleson/Truncation.lean [hunk 5]
```diff
@@ -0,0 +1,87 @@
...
+    (hσ₁ : Measurable σ₁) (hσ₂ : Measurable σ₂)
+    (h2σ₁ : range σ₁ ⊆ Icc (- S') S') (h2σ₂ : range σ₂ ⊆ Icc (- S') S')
+    (hσ : σ₁ ≤ σ₂) :
+    ∫⁻ x in G, ‖T_lin Q σ₁ σ₂ f x‖ₑ ≤
+    C3_0_4 a q * volume G ^ (q' : ℝ)⁻¹ * volume F ^ (q : ℝ) := by
+  sorry
+
+
+/-- The constant used in `S_truncation`.
+Has value `2 ^ (446 * a ^ 3) / (q - 1) ^ 6` in the blueprint. -/
```
Comment (grunweg) [inline Carleson/MetricCarleson/Truncation.lean:56]: The blueprint says "445", and the definition is 450. Please fix this, one way or the other :-)

File: Carleson/MetricCarleson/Truncation.lean [hunk 6]
```diff
@@ -0,0 +1,87 @@
...
+/- `S'` is `S` in the blueprint. -/
+lemma linearized_truncation {S' : ℤ}
+    (hq : q ∈ Ioc 1 2) (hqq' : q.HolderConjugate q')
+    (hF : IsBounded F) (hG : IsBounded G)
+    (hf : Measurable f) (h2f : (‖f ·‖) ≤ F.indicator 1)
+    (hσ₁ : Measurable σ₁) (hσ₂ : Measurable σ₂)
+    (h2σ₁ : range σ₁ ⊆ Icc (- S') S') (h2σ₂ : range σ₂ ⊆ Icc (- S') S')
+    (hσ : σ₁ ≤ σ₂) :
+    ∫⁻ x in G, ‖T_lin Q σ₁ σ₂ f x‖ₑ ≤
+    C3_0_4 a q * volume G ^ (q' : ℝ)⁻¹ * volume F ^ (q : ℝ) := by
```
Comment (grunweg) [inline Carleson/MetricCarleson/Truncation.lean:51]: Should this be volume F ^ (1 / q) --- (using q\inv, cannot type that just on github)?

**Review by grunweg — COMMENTED** [review]
Some comments. I have a few typos in the constants, a few questions about enorms (and have not digested all the statements in `Truncation.lean` yet. That will happen later.

File: Carleson/MetricCarleson/Basic.lean [hunk 7]
```diff
@@ -17,6 +17,8 @@ variable [CompatibleFunctions ℝ X (defaultA a)]
   {x : X} {θ : Θ X} {R₁ R₂ : ℝ}
 
 namespace MetricΘ
+/-- We choose as metric space instance on `Θ` that given by an arbitrary ball.
```
Comment (grunweg) [inline Carleson/MetricCarleson/Basic.lean:20]: minor comment: the grammar here doesn't check out

Comment (fpvandoorn) [reply Carleson/MetricCarleson/Basic.lean:20]: fixed
